simulator lang=spectre
global 0

ahdl_include "DEC_CAL_PHY.va"
ahdl_include "SWITCH_CAL.va"

parameters vdd=1.8

VAGND (AGND 0) vsource dc=0
VDGND (DGND 0) vsource dc=0
VAVDD (AVDD AGND) vsource dc=vdd
VDVDD (DVDD DGND) vsource dc=vdd
VVCM  (VCM AGND) vsource dc=vdd/2
VREFP (VREFP AGND) vsource dc=vdd
VREFN (VREFN AGND) vsource dc=0
VVIN  (VIN AGND) vsource dc=vdd/2
VVIP  (VIP AGND) vsource dc=vdd/2

VRST  (RST AGND) vsource type=pulse val0=0 val1=vdd period=100n \
    delay=100p rise=10p fall=10p width=14.05n
VRST1 (RST1 AGND) vsource type=pulse val0=0 val1=vdd period=100n \
    delay=100p rise=10p fall=10p width=14n
VSOUT (SOUT DGND) vsource type=pulse val0=0 val1=vdd period=100n \
    delay=98n rise=10p fall=10p width=2n
VCLK00 (CLK00 DGND) vsource type=pulse val0=0 val1=vdd period=100n \
    delay=20n rise=10p fall=10p width=79n
VCLKSAR (CLK_SAR DGND) vsource type=pulse val0=0 val1=vdd period=5n \
    delay=20n rise=10p fall=10p width=2n
VCALRST (CAL_RST DGND) vsource type=pulse val0=vdd val1=0 period=1m \
    delay=50n rise=10p fall=10p width=900u

// Static compile-smoke comparator outputs.  Functional closed-loop testing
// uses the separate physical-CDAC testbench.
VCOMP (COMP DGND) vsource dc=0
VCOMN (COMN DGND) vsource dc=vdd

// Raw SAR buses are held low in this compile-only test.
VBP12 (BP12 DGND) vsource dc=0
VBP11 (BP11 DGND) vsource dc=0
VBP10 (BP10 DGND) vsource dc=0
VBP9  (BP9  DGND) vsource dc=0
VBP8  (BP8  DGND) vsource dc=0
VBP7  (BP7  DGND) vsource dc=0
VBP6  (BP6  DGND) vsource dc=0
VBP5  (BP5  DGND) vsource dc=0
VBP4  (BP4  DGND) vsource dc=0
VBP3  (BP3  DGND) vsource dc=0
VBP2  (BP2  DGND) vsource dc=0
VBP1  (BP1  DGND) vsource dc=0
VBP0  (BP0  DGND) vsource dc=0

// Normal SWITCH controls are also held low.  The short run only checks AHDL
// compilation and bus/port expansion.
VSET11 (SET11 DGND) vsource dc=0
VSET10 (SET10 DGND) vsource dc=0
VSET9  (SET9  DGND) vsource dc=0
VSET8  (SET8  DGND) vsource dc=0
VSET7  (SET7  DGND) vsource dc=0
VSET6  (SET6  DGND) vsource dc=0
VSET5  (SET5  DGND) vsource dc=0
VSET4  (SET4  DGND) vsource dc=0
VSET3  (SET3  DGND) vsource dc=0
VSET2  (SET2  DGND) vsource dc=0
VSET1  (SET1  DGND) vsource dc=0
VSET0  (SET0  DGND) vsource dc=0

VBN1  (BN1  DGND) vsource dc=0
VBN2  (BN2  DGND) vsource dc=0
VBN3  (BN3  DGND) vsource dc=0
VBN4  (BN4  DGND) vsource dc=0
VBN5  (BN5  DGND) vsource dc=0
VBN6  (BN6  DGND) vsource dc=0
VBN7  (BN7  DGND) vsource dc=0
VBN8  (BN8  DGND) vsource dc=0
VBN9  (BN9  DGND) vsource dc=0
VBN10 (BN10 DGND) vsource dc=0
VBN11 (BN11 DGND) vsource dc=0
VBN12 (BN12 DGND) vsource dc=0

VBPX1  (BPX1  DGND) vsource dc=0
VBPX2  (BPX2  DGND) vsource dc=0
VBPX3  (BPX3  DGND) vsource dc=0
VBPX4  (BPX4  DGND) vsource dc=0
VBPX5  (BPX5  DGND) vsource dc=0
VBPX6  (BPX6  DGND) vsource dc=0
VBPX7  (BPX7  DGND) vsource dc=0
VBPX8  (BPX8  DGND) vsource dc=0
VBPX9  (BPX9  DGND) vsource dc=0
VBPX10 (BPX10 DGND) vsource dc=0
VBPX11 (BPX11 DGND) vsource dc=0
VBPX12 (BPX12 DGND) vsource dc=0

XDEC (B11 B10 B9 B8 B7 B6 B5 B4 B3 B2 B1 B0 \
    BP12 BP11 BP10 BP9 BP8 BP7 BP6 BP5 BP4 BP3 BP2 BP1 BP0 \
    DGND DVDD SOUT COMP COMN RST1 CAL_RST CLK_SAR CLK00 CLK \
    DC11 DC10 DC9 DC8 DC7 DC6 DC5 DC4 DC3 DC2 DC1 DC0 \
    UC11 UC10 UC9 UC8 UC7 UC6 UC5 UC4 UC3 UC2 UC1 UC0 \
    CAL DONE ERR) DEC_CAL_PHY DEBUG=0 CMP_SWAP=0

XSW (AGND AVDD \
    D1 D2 D3 D4 D5 D6 D7 D8 D9 D10 D11 D12 \
    BN1 BN2 BN3 BN4 BN5 BN6 BN7 BN8 BN9 BN10 BN11 BN12 \
    BPX1 BPX2 BPX3 BPX4 BPX5 BPX6 BPX7 BPX8 BPX9 BPX10 BPX11 BPX12 \
    U1 U2 U3 U4 U5 U6 U7 U8 U9 U10 U11 U12 \
    N P RST RST1 \
    SET0 SET1 SET2 SET3 SET4 SET5 SET6 SET7 SET8 SET9 SET10 SET11 \
    VCM VIN VIP VREFN VREFP \
    DC11 DC10 DC9 DC8 DC7 DC6 DC5 DC4 DC3 DC2 DC1 DC0 \
    UC11 UC10 UC9 UC8 UC7 UC6 UC5 UC4 UC3 UC2 UC1 UC0 \
    CAL) SWITCH_CAL

// Minimal passive load gives every analog switch node finite capacitance.
CD1 (D1 P) capacitor c=4f
CD2 (D2 P) capacitor c=8f
CU1 (U1 N) capacitor c=4f
CU2 (U2 N) capacitor c=8f
CP  (P AGND) capacitor c=10f
CN  (N AGND) capacitor c=10f

tran tran stop=1n maxstep=20p
save CAL DONE ERR CLK DC0 UC0 P N
saveOptions options save=selected
